US04404195
N,N'-Bis[4-[(β-D-glucopyranosyl)thio]phenyl]pentanediamide
To 4.0 g of N,N'-bis[4-[(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)thio]phenyl]pentanediamide was added 500 ml of ammonia saturated methanol at 0° C. The solution was kept at 0° C. for 2 hours, then at ambient temperature overnight and taken to dryness in vacuo. The residue was triturated with 20 ml of absolute ethanol and the resulting solid was collected, giving 1.45 g of the desired intermediate as an amorphous solid.

reactant | N,N'-bis[4-[(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)thio]phenyl]pentanediamide | 4.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(CCCC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)=O | C45H54N2O20S2
solvent | ammonia | 500 ml | N | H3N
product | N,N'-Bis[4-[(β-D-glucopyranosyl)thio]phenyl]pentanediamide | 1.45 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)SC1=CC=C(C=C1)NC(CCCC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C29H38N2O12S2
